US07919489B2
Ethyl 4-amino-1-methyl-1H-imidazole-2-carboxylate
0.50 g (2.5 mmol) of ethyl 1-methyl-4-nitro-1H-imidazole-2-carboxylate are dissolved in 7.5 ml of ethanol, 0.13 g (0.13 mmol) of palladium-on-carbon (10%) are added and the mixture is hydrogenated at 3 bar for 12 h. The reaction solution is then filtered through kieselguhr and the filtrate is concentrated. The residue is dried in vacuo and reacted further without further purification.

reactant | ethyl 1-methyl-4-nitro-1H-imidazole-2-carboxylate | 2.5 mmol, 0.50 g | CN1C(=NC(=C1)[N+](=O)[O-])C(=O)OCC | C7H9N3O4
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.13 mmol, 0.13 g | [Pd] | Pd
product | Ethyl 4-amino-1-methyl-1H-imidazole-2-carboxylate | NC=1N=C(N(C1)C)C(=O)OCC | C7H11N3O2
